US07868017B2
c) 3,4-Dichloro-2-methoxypyridine
3-Amino-4-chloro-2-methoxypyridine (200 mg, 1.27 mmol), dissolved in conc. hydrochloric acid (4 mL) was stirred at −5° C. while a solution of sodium nitrite (437 mg, 6.33 mmol) in water (2 mL) was added dropwise over 10 min. The mixture was stirred for a further 10 min before copper chloride (1.25 g, 12.66 mmol) was added portionwise over 5 min. The dark effervescing mixture was stirred at −5° C. for 20 min and then the cooling bath was removed and the mixture stirred at ambient temperature for 1 h. The resultant green solution was basified by addition of 5N sodium hydroxide (aq.), diluted with water (100 mL) and extracted with diethyl ether (3×30 mL). The combined extracts were washed with brine (50 mL), dried (MgSO4) and concentrated in vacuo to yield the title compound (218 mg, 97%).

reactant | 3-Amino-4-chloro-2-methoxypyridine | 1.27 mmol, 200 mg | NC=1C(=NC=CC1Cl)OC | C6H7ClN2O
reactant | sodium nitrite | 6.33 mmol, 437 mg | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 4 mL | Cl | ClH
solvent | water | 2 mL | O | H2O
catalyst | copper chloride | 12.66 mmol, 1.25 g | [Cu](Cl)Cl
product | 3,4-Dichloro-2-methoxypyridine | 218 mg, 97% | ClC=1C(=NC=CC1Cl)OC | C6H5Cl2NO
